US09035059B2
Methylmagnesium bromide (3 mol/L diethyl ether solution, 5 mL, 15.0 mmol) was added dropwise to a solution of 4-tert-butylbenzaldehyde (1.62 g, 10.0 mmol) in diethyl ether (20 mL) while cooling in ice, and the mixture was stirred at the same temperature for 30 min. Aqueous ammonium chloride solution was added thereto and the mixture was extracted with diethyl ether. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The desiccant was filtered off and then the filtrate was concentrated under reduced pressure to afford 1-(4-tert-butylphenyl)ethanol as a colorless solid (1.84 g).

reactant | Methylmagnesium bromide | 15.0 mmol, 3 mol/L, 5 mL | C[Mg]Br
reactant | 4-tert-butylbenzaldehyde | 10.0 mmol, 1.62 g | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 1-(4-tert-butylphenyl)ethanol | 1.84 g | C(C)(C)(C)C1=CC=C(C=C1)C(C)O | C12H18O
